US07429665B2
2-[4-(1-Isopropyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
To a solution of 2-[4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl]-quinoline (0.075 g) in dimethyl formamide (2 ml) was added cesium carbonate (0.098 g) and 2-iodo propane (0.030 ml) and the reaction mixture heated at 60° C. for 72 h. The reaction mixture was poured into water and extracted with methylene chloride, dried magnesium sulfate, filtered and concentrated. Purification via Prep TLC eluting with 2% methanol/1% saturated ammonium hydroxide/67% ethyl acetate/30% hexane provided the title compound (60 mg). 1H NMR (400 MHz, CDCl3) δ 8.43 (d, J=6.2 Hz, 2 H), 8.16 (d, J=8.7 Hz, 1 H), 8.05 (d, J=9.1 Hz, 1 H), 7.80 (d, J=8.3 Hz, 1H), 7.70 (m, 1H), 7.65 (d, J=8.7 Hz, 1 H), 7.59 (s, 1H), 7.53 (t, J=7.1 Hz, 1 H), 7.38 (d, J=9.1 Hz, 2H), 7.15 (d, J=8.7 Hz, 2H), 6.99 (d, J=8.7 Hz, 2H), 5.38 (s, 2H) 4.51 (m, 1H), 1.54 (d, J=6.6 Hz, 6H); MS: (M+H m/z=421.2).

reactant | 2-[4-(4-Pyridin-4-yl-2H-pyrazol-3-yl)-phenoxymethyl]-quinoline | 0.075 g | N1=CC=C(C=C1)C1=C(NN=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C24H18N4O
reactant | cesium carbonate | 0.098 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-iodo propane | 0.030 ml | IC(C)C | C3H7I
reactant | water | O | H2O
solvent | dimethyl formamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[4-(1-Isopropyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | 60 mg | C(C)(C)N1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C27H24N4O
